US06235896B1
To a solution of cefuroxime axetil (20.4 gm, S-isomer >90%, R-isomer <10%) in a mixture of tetrahydrofuran (204 ml) and methanol (14 ml) maintained at −60° C. was added freshly prepared sodium methoxide (1.89 gm, sodium metal was reacted in 28 ml methanol). The reaction contents were stirred for 1 hour and 15% aqueous hydrochloric acid (17 ml) was added. The solvent was distilled at low temperature under vacuum and water was added to the remaining reaction mass. Ethyl acetate was added and the pH level was adjusted to 6.0 with aqueous potassium bicarbonate. The aqueous layer was separated and acidified to pH 1.0 with aqueous hydrochloric acid. The separated solid was filtered, washed with water and dried to yield cefuroxime (15.66 gm).

reactant | cefuroxime axetil | 20.4 gm | CC(OC(=O)C)OC(=O)C1=C(CS[C@H]2N1C(=O)[C@H]2NC(=O)/C(=N\OC)/C3=CC=CO3)COC(=O)N | C20H22N4O10S
reactant | sodium methoxide | 28 ml, 1.89 gm | C[O-].[Na+]
reactant | hydrochloric acid | 17 ml | Cl | ClH
solvent | tetrahydrofuran | 204 ml | O1CCCC1 | C4H8O
solvent | methanol | 14 ml | CO | CH4O
product | cefuroxime | 15.66 gm | CO/N=C(/C1=CC=CO1)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)COC(=O)N)C(=O)O | C16H16N4O8S
